US05082841
3-Butyryl-4-(2-methylphenylamino)-8-hydroxyquinoline (3.2 g, 10 mmol) and potassium t-butoxide (5.0 g, 40 mmol) were dissolved in dry dimethylformamide (100 ml) at 100° , 1-(3-chloropropyl)pyrrolidine hydrochloride (3.6 g, 20 mmol) added, and stirring continued for 1 hour. The mixture was diluted with water and extracted with ether, and the ether extracts dried and evaporated. Chromatography (silica gel, 0-3% methanolic ammonia in chloroform) and recrystallisation from ether gave 3-butyryl-4-(2-methylphenylamino)-8-(3-(1-pyrrolidinyl)propoxy)quinoline (0.35 g, 8.5 %), m.p. 101°-103°.

reactant | 3-Butyryl-4-(2-methylphenylamino)-8-hydroxyquinoline | 10 mmol, 3.2 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)O | C20H20N2O2
reactant | potassium t-butoxide | 40 mmol, 5.0 g | CC(C)([O-])C.[K+]
reactant | 1-(3-chloropropyl)pyrrolidine hydrochloride | 20 mmol, 3.6 g | Cl.ClCCCN1CCCC1
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-butyryl-4-(2-methylphenylamino)-8-(3-(1-pyrrolidinyl)propoxy)quinoline | 0.35 g, 8.5 % | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCCN1CCCC1 | C27H33N3O2
